US04128540
To a stirred solution of 7.49 g. of N-benzyloxycarbonyl-L-seryl-L-tyrosyl hydrazide [this compound is reported in Helv. Chim. Acta, 41, 1852 (1958)] in 50 ml. of N,N-dimethylformamide, cooled to -30° C., is first added 16.9 ml. of 3.607 N hydrogen chloride in tetrahydrofuran and then 2.7 ml. of isoamyl nitrite, and the resulting mixture is stirred at -30° C. for 30 minutes. The mixture, which contains N-benzyloxycarbonyl-L-seryl-L-tyrosyl azide, is next cooled to -60° C., and to it are added first 8.57 ml. of triethylamine, then 4.297 g. of glycyl-L-leucine methyl ester hydrochloride and finally 2.52 ml. more of triethylamine. The stirred mixture is allowed to warm to 0° C. during one hour and is stirred at 0° C. for one hour and kept at -5° C. for 48 hours. It is then filtered, and the filtrate is evaporated under reduced pressure at 40°-50° C. The gummy residue is partitioned between dilute hydrochloric acid and ethyl acetate, and the organic layer is separated, washed with saturated aqueous sodium bicarbonate and with saturated aqueous sodium chloride, dried, and evaporated to give a solid residue of N-benzyloxycarbonyl-L-seryl-L-tyrosylglycyl-L-leucine methyl ester; m.p. 166°-167° C., following two crystallizations from ethyl acetate-ether; [α]D25 -25.4° (2% in N,N-dimethylformamide); [α]D25 -38.2° (2.09% in methanol).

reactant | hydrogen chloride | 3.607 N | Cl | ClH
reactant | isoamyl nitrite | N(=O)OCCC(C)C | C5H11NO2
reactant | N-benzyloxycarbonyl-L-seryl-L-tyrosyl azide | C(C1=CC=CC=C1)OC(=O)N[C@@H](CO)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N=[N+]=[N-] | C20H21N5O6
reactant | glycyl-L-leucine methyl ester hydrochloride | Cl.COC([C@@H](NC(CN)=O)CC(C)C)=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-benzyloxycarbonyl-L-seryl-L-tyrosylglycyl-L-leucine methyl ester | COC([C@@H](NC(CNC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O)CC1=CC=C(C=C1)O)=O)=O)CC(C)C)=O | C29H38N4O9
